* The same motorway under the metering schedule optimised on the paper's discrete Payne
* model (docs/examples/traffic_mpc.py) and *replayed* here into the continuous plant as
* a PWL source: the optimiser lives outside the simulator, the simulator is the plant.
* The schedule is the full-horizon optimum (the best single metering window by grid
* search); the receding-horizon MPC of the paper (30 min here, 8 min there) never closes
* the meter in this parameterisation, and no schedule pays under its 100-vehicle
* ramp-queue limit -- docs/traffic.md. Generated; do not edit by hand.
* Discrete model: TTS 923.0 veh.h no control -> 830.3 with r = 0.4 on
* [0.33, 1.00) h, ramp queue peak 227 veh (paper: 1267 -> 1183 under its limit).
Vm   dm  gnd  DC 3400
Vr   dr  gnd  PULSE(500 1500 900 900 900 540 1e6)
Vone one gnd  DC 1
X0   dm  one  wm  c1  qm0   origin   qcap=4038
X1   c1  c2   v1  v1        section
X2   c2  c3   v1  v2        section
Vrate rate gnd            PWL(0 1.0000 120 1.0000 120 1.0000 240 1.0000 240 1.0000 360 1.0000 360 1.0000 480 1.0000 480 1.0000 600 1.0000 600 1.0000 720 1.0000 720 1.0000 840 1.0000 840 1.0000 960 1.0000 960 1.0000 1080 1.0000 1080 1.0000 1200 1.0000 1200 0.4000 1320 0.4000 1320 0.4000 1440 0.4000 1440 0.4000 1560 0.4000 1560 0.4000 1680 0.4000 1680 0.4000 1800 0.4000 1800 0.4000 1920 0.4000 1920 0.4000 2040 0.4000 2040 0.4000 2160 0.4000 2160 0.4000 2280 0.4000 2280 0.4000 2400 0.4000 2400 0.4000 2520 0.4000 2520 0.4000 2640 0.4000 2640 0.4000 2760 0.4000 2760 0.4000 2880 0.4000 2880 0.4000 3000 0.4000 3000 0.4000 3120 0.4000 3120 0.4000 3240 0.4000 3240 0.4000 3360 0.4000 3360 0.4000 3480 0.4000 3480 0.4000 3600 0.4000 3600 1.0000 3720 1.0000 3720 1.0000 3840 1.0000 3840 1.0000 3960 1.0000 3960 1.0000 4080 1.0000 4080 1.0000 4200 1.0000 4200 1.0000 4320 1.0000 4320 1.0000 4440 1.0000 4440 1.0000 4560 1.0000 4560 1.0000 4680 1.0000 4680 1.0000 4800 1.0000 4800 1.0000 4920 1.0000 4920 1.0000 5040 1.0000 5040 1.0000 5160 1.0000 5160 1.0000 5280 1.0000 5280 1.0000 5400 1.0000 5400 1.0000 5520 1.0000 5520 1.0000 5640 1.0000 5640 1.0000 5760 1.0000 5760 1.0000 5880 1.0000 5880 1.0000 6000 1.0000 6000 1.0000 6120 1.0000 6120 1.0000 6240 1.0000 6240 1.0000 6360 1.0000 6360 1.0000 6480 1.0000 6480 1.0000 6600 1.0000 6600 1.0000 6720 1.0000 6720 1.0000 6840 1.0000 6840 1.0000 6960 1.0000 6960 1.0000 7080 1.0000 7080 1.0000 7200 1.0000 7200 1.0000 7320 1.0000 7320 1.0000 7440 1.0000 7440 1.0000 7560 1.0000 7560 1.0000 7680 1.0000 7680 1.0000 7800 1.0000 7800 1.0000 7920 1.0000 7920 1.0000 8040 1.0000 8040 1.0000 8160 1.0000 8160 1.0000 8280 1.0000 8280 1.0000 8400 1.0000 8400 1.0000 8520 1.0000 8520 1.0000 8640 1.0000 8640 1.0000 8760 1.0000 8760 1.0000 8880 1.0000 8880 1.0000 9000 1.0000 9000 1.0000 9120 1.0000 9120 1.0000 9240 1.0000 9240 1.0000 9360 1.0000 9360 1.0000 9480 1.0000 9480 1.0000 9600 1.0000 9600 1.0000 9720 1.0000 9720 1.0000 9840 1.0000 9840 1.0000 9960 1.0000 9960 1.0000 10080 1.0000 10080 1.0000 10200 1.0000 10200 1.0000 10320 1.0000 10320 1.0000 10440 1.0000 10440 1.0000 10560 1.0000 10560 1.0000 10680 1.0000 10680 1.0000 10800 1.0000 10800 1.0000 10920 1.0000 10920 1.0000 11040 1.0000 11040 1.0000 11160 1.0000 11160 1.0000 11280 1.0000 11280 1.0000 11400 1.0000 11400 1.0000 11520 1.0000 11520 1.0000 11640 1.0000 11640 1.0000 11760 1.0000 11760 1.0000 11880 1.0000 11880 1.0000 12000 1.0000 12000 1.0000 12120 1.0000 12120 1.0000 12240 1.0000 12240 1.0000 12360 1.0000 12360 1.0000 12480 1.0000 12480 1.0000 12600 1.0000)
Xr   dr  rate wr  c3  qr    origin   qcap=2000
X3   c3  c4   v2  v3  qr    section
X4   c4  cb   v3  v4        section
Xb   cb                     boundary dens=38
X9   c1  c2   c3  c4  wm wr tts   tts_monitor
.tran 1 12600 UIC
.end
